US07723378B2
To a solution of 3-(4-hydroxymethyl-2,6-dimethyl-phenyl)-propan-1-ol (850 mg, 4.38 mmol) in ethanol (20 mL), MnO2 (1.14 g, 13.1 mmol) is added and the resulting suspension is stirred at 85° C. for 24 h. The mixture is filtered through celite and the solvent of the filtrate is evaporated. The product is purified by CC on silica gel eluting with DCM containing 3% of methanol to give 4-(3-hydroxy-propyl)-3,5-dimethyl-benzaldehyde as a pale yellow solid; LC-MS: tR=0.81 min; 1H NMR (CDCl3): δ 9.89 (s, 1H), 7.51 (s, 2H), 3.76 (t, J=5.8 Hz, 2H), 2.81-2.74 (m, 2H), 2.40 (s, 6H), 1.80-1.68 (m, 2H).

reactant | 3-(4-hydroxymethyl-2,6-dimethyl-phenyl)-propan-1-ol | 4.38 mmol, 850 mg | OCC1=CC(=C(C(=C1)C)CCCO)C | C12H18O2
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | MnO2 | 13.1 mmol, 1.14 g | O=[Mn]=O
product | 4-(3-hydroxy-propyl)-3,5-dimethyl-benzaldehyde | OCCCC1=C(C=C(C=O)C=C1C)C | C12H16O2
